US06706757B2
Preparation of 7-Amino-2-(hydroxymethyl)chroman
A solution of ethyl 7-amino-2-chromancarboxylate (1.26 g, 5.7 mmol) in anhydrous THF is treated dropwise with lithium borohydride (2.0 M in THF, 13.7 mmol), stirred under nitrogen at ambient temperatures for 4 h, quenched with methanol, stirred at ambient temperatures for 1 h, poured into water, extracted with ethyl acetate. The extracts are combined, dried over MgSO4 and concentrated in vacuo to afford the title compound as a nearly colorless oil, 0.9 g (90% yield), identified by NMR and mass spectral analyses.

reactant | ethyl 7-amino-2-chromancarboxylate | 5.7 mmol, 1.26 g | NC1=CC=C2CCC(OC2=C1)C(=O)OCC | C12H15NO3
reactant | lithium borohydride | 13.7 mmol, 2.0 M | [BH4-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
product | 7-Amino-2-(hydroxymethyl)chroman | 90% yield | NC1=CC=C2CCC(OC2=C1)CO | C10H13NO2
